US07297693B2
Step 1. 4-Bromo-5-pyridin-4-yl-furan-2-carboxylic acid tert-butyl ester
tert-Butyl 4,5-dibromo-2-furancarboxylate (H. Muratake et al, Chem. Pharm. Bull., 1997, 45, 799) (9.78 g, 30 mmol), 4-pyridyl boronic acid (M. Lamothe et al, J. Med. Chem., 1997, 40, 3542) (4.06 g, 33 mmol), potassium carbonate (24.8 g, 180 mmol), triphenylphosphine (786 mg, 3 mmol) and palladium (II) acetate (337 mg, 1.5 mmol) were dissolved in ethylene glycol dimethyl ether (150 ml) and water (75 ml). The mixture was heated at reflux for 18 hours with vigorous stiring, cooled then filtered through celite pad, which was thoroughly washed with ethyl acetate. The filtrate was then washed with saturated sodium bicarbonate solution, water (×3) and brine, then dried over magnesium sulfate. The solution was evaporated in vacuo and the residue purified by silica gel chromatography to afford the title product (5.32 g, 55%); MS (AP−) m/e 323/325 [M−H]−.

reactant | tert-Butyl 4,5-dibromo-2-furancarboxylate | 30 mmol, 9.78 g | BrC=1C=C(OC1Br)C(=O)OC(C)(C)C | C9H10Br2O3
reactant | 4-pyridyl boronic acid | 33 mmol, 4.06 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | potassium carbonate | 180 mmol, 24.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 3 mmol, 786 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethylene glycol dimethyl ether | 150 ml | COCCOC | C4H10O2
solvent | water | 75 ml | O | H2O
catalyst | palladium (II) acetate | 1.5 mmol, 337 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Bromo-5-pyridin-4-yl-furan-2-carboxylic acid tert-butyl ester | 5.32 g, 55% | C(C)(C)(C)OC(=O)C=1OC(=C(C1)Br)C1=CC=NC=C1 | C14H14BrNO3
